US07432258B2
c) 2-bromo-1-(4-bromo-3-fluorophenyl)ethanone
To a 0° C. solution containing 2.4 g of 1-(4-bromo-3-fluorophenyl)ethanone (11.1 mmols) in 56 mL of CHCl3 was added dropwise 0.57 mL of bromine (11.1 mmols). The reaction was stirred at 0° C. for three hours and then allowed to warm to ambient temperature. The reaction mixture was quenched with 10 mL of saturated aqueous Na2S2O3. The layers were separated, and the organics were dried over MgSO4, filtered through a frit, and concentrated to a yellow solid which was used without further purification.

reactant | 1-(4-bromo-3-fluorophenyl)ethanone | 11.1 mmols, 2.4 g | BrC1=C(C=C(C=C1)C(C)=O)F | C8H6BrFO
reactant | bromine | 11.1 mmols, 0.57 mL | BrBr | Br2
solvent | CHCl3 | 56 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(4-bromo-3-fluorophenyl)ethanone | BrCC(=O)C1=CC(=C(C=C1)Br)F | C8H5Br2FO
